US04550105
A mixture of 412 mg of cis-1-(2,4-dimethoxybenzyl)-3-phenylacetamido-2-oxoazetidine-4-carboxylic acid methyl ester, 810 mg of potassium persulfate and 261 mg of dipotassium phosphate in 20 ml of acetonitrile and 20 ml of water is heated under reflux for one hour. The reaction mixture is concentrated in vacuo and the residue is dissolved in ethyl acetate, and washed successively with an aqueous 5% sodium hydrogen carbonate solution and an aqueous sodium chloride solution, and dried over magnesium sulfate, and the solvent is then distilled off in vacuo. Ethyl acetate is added to the residue and the precipitated crystals are collected by filtration to give cis-3-phenylacetamido-2-oxoazetidine-4-carboxylic acid methyl ester, m.p. 176°-180° C.

reactant | cis-1-(2,4-dimethoxybenzyl)-3-phenylacetamido-2-oxoazetidine-4-carboxylic acid methyl ester | 412 mg | COC(=O)[C@@H]1[C@@H](C(N1CC1=C(C=C(C=C1)OC)OC)=O)NC(CC1=CC=CC=C1)=O | C22H24N2O6
reactant | potassium persulfate | 810 mg | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | dipotassium phosphate | 261 mg | P(=O)([O-])([O-])O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 20 ml | O | H2O
product | cis-3-phenylacetamido-2-oxoazetidine-4-carboxylic acid methyl ester | COC(=O)[C@@H]1[C@@H](C(N1)=O)NC(CC1=CC=CC=C1)=O | C13H14N2O4
